US07678795B2
3-(1-Methyl-cyclopropyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
light yellow oil. MS (EI): 216.3 (M+). Prepared from cyclooctane-1,2-dione, [2-(1-Methyl-cyclopropyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | [2-(1-Methyl-cyclopropyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1(CC1)C | C8H15O4P
reactant | hydrazine monohydrate | O.NN
product | 3-(1-Methyl-cyclopropyl)-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | CC1(CC1)C1=CC2=C(N=N1)CCCCCC2 | C14H20N2
